US04036986
19 g of aniline were dissolved in 300 ml of toluene. To the resulting solution, a solution of 28 g of N-(4-chlorobenzyl)-N-sec.-butyl-thiocarbamoyl chloride in 70 ml of toluene was added dropwise, under cooling and stirring. After the dropwise addition, the temperature of the solution was gradually raised, and then the solution was stirred at a temperature of 70°-80° C. for about 5 hours. The solution was cooled to precipitate aniline hydrochloride, which was then separated by filtration. The toluene layer was washed with 100 ml of cold water and dried with anhydrous sodium sulfate. Then, the toluene was distilled off. The residue was subjected to recrystallization from a mixture of hexane and ethyl alcohol, whereby 23 g of N-(4-chlorobenzyl)-N-sec.-butyl-N'-phenylthiourea were obtained. Yield: 70%. Melting point: 134°-134.5° C.

reactant | aniline | 19 g | NC1=CC=CC=C1 | C6H7N
reactant | N-(4-chlorobenzyl)-N-sec.-butyl-thiocarbamoyl chloride | 28 g | ClC1=CC=C(CN(C(=S)Cl)C(C)CC)C=C1 | C12H15Cl2NS
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | N-(4-chlorobenzyl)-N-sec.-butyl-N'-phenylthiourea | 23 g, Yield: 70% | ClC1=CC=C(CN(C(=S)NC2=CC=CC=C2)C(C)CC)C=C1 | C18H21ClN2S
